Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Singulair
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of HTN, HLD, and atrial fibrillation (on warfarin) 
who presents after syncopal episode yesterday. Pt states that he 
was drinking ale in the afternoon after not eating much all day 
(just a small breakfast) when the doorbell rang and he got up to 
answer the door. He then felt lighthead after standing but 
proceded to the door and open the door and then fell to the 
floor with LOC. Pt remembers answering the door and waking up 
before his friend returned. His friend then called EMS.  

Pt did not report chest pain, palpitations, or shortness of 
breath preceding incidence. He also did not have bowel or 
bladder incontinence or tongue biting. Pt denies headstrike and 
believes he fell forward onto his knees. 

Of note he reports 4 days of worsening dyspnea on exertion, and 
lightheadedness and dizziness upon standing.  Of note his PCP 
recently changed his metoprolol to diltiazemon on ___ due to 
concern the beta blocker was inducing bronchospasms in the 
setting of his asthma. He denies recent fevers, or chills. He 
has a chronic productive cough and multiple asthma 
exacerbations. He has no prior syncopal episodes or seizures.  

In the ED:
Initial vitals were 97.1 68 106/58 18 98% RA. 
He had a negative NCHCT, trop <.01 x1.  Patient was noted to 
become bradycardic to 39, and cardiology c/s was placed and pt 
was admitted to ___ EP service for evaluation.

On the floor, pt is AVSS, states that he feels well with no 
complaints. 

 
Past Medical History:
1. Seasonal allergies  
2. Moderate mitral regurgitation  
3. Left ventricular hypertrophy  
4. Atrial fibrillation (s/p failed cardioversion x 1), dx ___, 
not started on rate control until ___, unclear reasons
5. Hypertension  
6. Hyperlipidemia  
7. History of chronic vertigo  
8. Hemorrhoids  
9. Diverticulosis  
10. Colonic adenomas  
11. Depression  
12. Recurrent nephrolithiasis  
13. Sleep apnea  
14. History of EtOH abuse and marijuana abuse  
15. Chronic kidney disease.  

 
Social History:
___
Family History:
Family history is negative for sudden cardiac death, 
arrhythmias, or early CAD.
 
Physical Exam:
Admission: 
VS: T=98.4 BP= 127/76 (laying) 134/80 (sitting) 132/82 
(standing) HR= 82 RR= 18 O2 sat=99%RA  
GENERAL: NAD. Oriented x3  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM
NECK: Supple not elevated JVP.  
CARDIAC: irregularly irregular, no r/g/m
LUNGS: Diffuse expiratory and inspiratory wheezes and rhonchi 
throughout. 
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. No edema noted  
SKIN: No stasis dermatitis
PULSES: 2+ radial, DP bilaterally

Discharge: 
VS: T=98.4 BP= 127/76 (laying) 134/80 (sitting) 132/82 
(standing) HR= 82 RR= 18 O2 sat=99%RA  
GENERAL: NAD. Oriented x3  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM
NECK: Supple not elevated JVP.  
CARDIAC: irregularly irregular, no r/g/m
LUNGS: Diffuse expiratory and inspiratory wheezes and rhonchi 
throughout. 
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. No edema noted  
SKIN: No stasis dermatitis
PULSES: 2+ radial, DP bilaterally

 
Pertinent Results:
___ 10:53AM   CK(CPK)-87
___ 12:15AM   GLUCOSE-60* UREA N-34* CREAT-1.7* SODIUM-138 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-20* ANION GAP-19
___ 12:15AM   estGFR-Using this
___ 12:15AM   cTropnT-<0.01
___ 12:15AM   WBC-9.9 RBC-4.83 HGB-16.8 HCT-48.1 MCV-100* 
MCH-34.9* MCHC-35.0 RDW-15.2
___ 12:15AM   NEUTS-80.2* LYMPHS-14.6* MONOS-4.7 EOS-0.3 
BASOS-0.2
___ 12:15AM   PLT COUNT-151
___ 12:15AM   ___ PTT-36.4 ___
___ 11:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG

CT Head: ___   
There is no evidence of infarction, hemorrhage, edema, or mass.  
The 
ventricles and sulci are prominent, due to age related global 
atrophy. 
Periventricular and subcortical white matter hypodensities 
likely reflect the sequelae of chronic small vessel ischemic 
disease.  Vascular arthrosclerotic calcifications are again seen 
in the basilar artery. 
Extensive mucosal thickening is noted in the bilateral maxillary 
sinuses, as well as scattered opacification of the posterior 
ethmoid air cells and mucosal thickening in the sphenoid 
sinuses. Mild fluid is noted in the inferior mastoid air cells 
bilaterally. No fractures are present. The orbits are 
unremarkable. 
  
IMPRESSION:  
No acute intracranial abnormality. Inflammatory paranasal sinus 
disease. 

TTE (___)
The left atrium is moderately dilated. The right atrium is 
moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. The estimated right atrial pressure is ___ mmHg. 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic root is mildly dilated at the 
sinus level. The ascending aorta is mildly dilated. The number 
of aortic valve leaflets cannot be determined. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. There is borderline pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
the rhythm is now atrial fibrillation; other findings are 
similar
 
Brief Hospital Course:
___ with HTN, HLD, atrial fibrillation, who presents after 
syncopal episode in setting of poor PO intake, ETOH use, and new 
calcium channel blocker who was found to be bradycardia in the 
ED which has since resolved. 
 
ACTIVE ISSUES:
# Syncope: Likely multifactorial etiology including poor PO 
intake, dehdration, ETOH use, and new medications tamuslosin and 
diltiazem contributing to his symptoms. He had negative 
orthostatics here and has not been bradycardia since admission.  
The patient was monitored on telemetry, and no significant 
events recorded.  His diltiazem and tamusolin was discontinued. 
Electrophysiology consult was obtained and ___ 
___ monitor and outpatient follow-up in two weeks with Dr. 
___.  An echocardiogram did not show any new or acute changes 
as compared to the previous in ___.

# Atrial fibrillation: Has been rate controlled on metoprolol 
which was changed to diltiazem given concern for bronchospasms.  
The patient was continued on his home dose of warfarin 2.5mg.  
INR at discharge is 3.1.  Patient will resume follow-up at the 
___ clinic.  The diltiazem is discontinued with 
HR in ___ off nodal agents.
 
STABLE ISSUES:
# HTN: Patient was continued on home dose of valsartan

# HLD: Patient was continued on home dose of pravastatin 
-Continue pravastatin  

# CKD: Baseline Cr 1.5-1.9. It was 1.7 during hospitalization.   


# Asthma: Patient was given albuterol/ipratropium nebulizers, 
continued on prednisone and transitioned to advair as 
therapeutic interchange for symbicort.  He is discharged back on 
all home medications.

# BPH: His tamsulosin was discontinued as this may have 
contributed to his syncope.

Transitional Issues
1. Will leave with ___ monitor, we stopped diltiazem and 
tamsulosin
2. Will follow up in 2 weeks with Dr. ___ in ___ clinic, and 
with his PCP ___ 1 week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
4. Diltiazem Extended-Release 120 mg PO DAILY 
5. Pravastatin 40 mg PO QPM 
6. PredniSONE 15 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 
8. Valsartan 80 mg PO DAILY 
9. Warfarin 2.5 mg PO DAILY16 
 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Pravastatin 40 mg PO QPM 
3. PredniSONE 15 mg PO DAILY 
4. Valsartan 80 mg PO DAILY 
5. Warfarin 2.5 mg PO DAILY16 
6. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
7. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Syncope
2. Atrial Fibrillation

Secondary Diagnosis:
1. Moderate mitral regurgitation  
2. Left ventricular hypertrophy  
3. Atrial fibrillation (s/p failed cardioversion x 1), dx ___, 
not started on rate control until ___, unclear reasons
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were recently hospitalized at ___ after you loss 
consciousness and fell. You were admitted for observation and 
placed on a heart monitor.  We also stopped your diltiazem and 
your tamusolin while you were hospitalized.  You also received a 
cardiac echocardiogram here and it did not show any new or acute 
changes as compared to your previous echocardiogram.  Please 
stop taking your diltazem and tamusolin until you follow-up with 
your PCP.

Please follow-up with your PCP 1 week after discharge from the 
hospital and Dr. ___ in Electrophysiology ___ within 2 
weeks of discharge (see below for appointment information). It 
was a pleasure to take care of you at ___.

Your ___ Care Team
 
Followup Instructions:
___